US06660744B1
Cis-4-(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}phenoxy)benzonitrile (0.200 g, 0.000394 mol) was dissolved in a mxture of acetic acid (15 mL) and 6N solution of hydrochloric acid in water (15 mL) and the solution was heated at reflux for 12 hours. It was cooled to ambient temperature and concentrated under reduced pressure and the residue recrystallized from N,N-dimethylformamide to yield cis-4-(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}phenoxy)benzoic acid (0.100 g, 0.00019 mol) as an off-white solid.

reactant | Cis-4-(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}phenoxy)benzonitrile | 0.000394 mol, 0.200 g | NC1=C2C(=NC=N1)N(N=C2C2=CC=C(OC1=CC=C(C#N)C=C1)C=C2)[C@@H]2CC[C@@H](CC2)N2CCN(CC2)C | C29H32N8O
reactant | acetic acid | 15 mL | C(C)(=O)O | C2H4O2
solvent | hydrochloric acid | Cl | ClH
solvent | water | 15 mL | O | H2O
product | cis-4-(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}phenoxy)benzoic acid | 0.00019 mol, 0.100 g | NC1=C2C(=NC=N1)N(N=C2C2=CC=C(OC1=CC=C(C(=O)O)C=C1)C=C2)[C@@H]2CC[C@@H](CC2)N2CCN(CC2)C | C29H33N7O3
